US07592365B2
0.022 g (0.336 mmol) of malononitrile is added at a temperature in the region of 20° C., under an argon atmosphere, to 0.050 g (0.224 mmol) of N-[2-(6-nitropyridin-3-yl)-2-oxoethyl]acetamide in solution in 5 cm3 of methanol. The reaction medium is cooled to a temperature in the region of 0° C. and then 0.1 cm3 of a 50% aqueous potassium hydroxide solution is added. After stirring for 15 minutes at a temperature in the region of 20° C. and then for 1.15 hours at a temperature in the region of 65° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and then diluted in 50 cm3 of ethyl acetate. The organic phase is washed with 10 cm3 of water and 10 cm3 of a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give 0.043 g of 2-amino-4-(6-nitropyridin-3-yl)-1H-pyrrole-3-carbonitrile in the form of a brown solid. ES+: m/z=230 (MH+).

reactant | malononitrile | 0.336 mmol, 0.022 g | C(CC#N)#N | C3H2N2
reactant | N-[2-(6-nitropyridin-3-yl)-2-oxoethyl]acetamide | 0.224 mmol, 0.050 g | [N+](=O)([O-])C1=CC=C(C=N1)C(CNC(C)=O)=O | C9H9N3O4
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 5 cm3 | CO | CH4O
product | 2-amino-4-(6-nitropyridin-3-yl)-1H-pyrrole-3-carbonitrile | 0.043 g | NC=1NC=C(C1C#N)C=1C=NC(=CC1)[N+](=O)[O-] | C10H7N5O2
